US07045533B2
4-Pentyloxy-naphthalene-1-carboxylic acid naphthalen-1-yl ester:
A solution of 4-pentyloxy-naphthalene-1-carbaldehyde (121 mg,.0.5 mmol) in CCl4 (2 mL) is treated with t-BuOCl (8.82 M, 170 μL, 1.5 mmol) and stirred at 50° C. for 1 h. After addition of DIEA (0.3 mL, 1.7 mmol) and 1-naphthol (216 mg, 1.5 mmol) the mixture is refluxed for 2 h and distributed between 1M KHCO3 (5 mL) and DCM (2×5 mL). The combined organic phases are dried over Na2SO4 and concentrated. Flash chromatography (cyclohexane/acetone) yields 82 mg (43%) of colourless crystals.

reactant | 4-pentyloxy-naphthalene-1-carbaldehyde | 0.5 mmol, 121 mg | C(CCCC)OC1=CC=C(C2=CC=CC=C12)C=O | C16H18O2
reactant | t-BuOCl | 1.5 mmol, 8.82 M, 170 μL | C(C)(C)(C)OCl | C4H9ClO
reactant | DIEA | 1.7 mmol, 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-naphthol | 1.5 mmol, 216 mg | C1(=CC=CC2=CC=CC=C12)O | C10H8O
solvent | CCl4 | 2 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-Pentyloxy-naphthalene-1-carboxylic acid naphthalen-1-yl ester | 82 mg, 43% | C1(=CC=CC2=CC=CC=C12)OC(=O)C1=CC=C(C2=CC=CC=C12)OCCCCC | C26H24O3
